Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Epigastric and back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with a history of necrotizing pancreatitis due 
to hypertriglyceridemia and alcohol, IDDM2, recently admitted 
for the same (___), presents with acute worsening 
epigastric pain.  Patient had reportedly been feeling relatively 
well at home since recent discharge, able to tolerate a normal 
diet. He has been abstaining from alcohol, taking all meds as 
prescribed, and trying to avoid fatty food.  The night prior to 
admission he had sudden onset epigastric pain radiating to his 
left shoulder and back, similar to his prior presentations. The 
pain was ___ severity. He denies nausea, vomiting, diarrhea, 
fevers, chills, shortness of breath. He came to the ED for 
further evaluation.

In the ED, VS were: T 99.5, P 86, BP 113/72, RR 16, O2 97% on 
RA. Exam notable for extreme discomfort, epigastric tenderness. 
CT abdomen showed evolution of necrotizing pancreatitis with 
persistent and new fluid collections within and around the 
pancreas, as well as persistent occlusion of the splenic vein. 
Labs notable for WBC 13.3, lipase 82, triglycerides 532 (~6000 
previously), BUN 26, Cr 1.0 (prior BUN 5, Cr 0.8). He received 
hydromoprhone 1mg IV x 4, 3L NS. He was seen by ___ 
Surgery who recommended admission to medicine with no surgical 
intervention at this time.

 
Past Medical History:
Pancreatitis
Hypertriglyceridemia
Alcohol Abuse
Diabetes 
 
 
Social History:
___
Family History:
Problems with gallbladders and hypertension in the family.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital signs: T 99.0, BP 113/68, P 81, RR 18, O2 96 RA
Gen: Uncomfortable appearing due to epigastric pain
HEENT: NCAT, oropharynx clear
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs 
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no 
increased work of breathing
GI: Soft, tender diffusely, worst in epigastrium, no rebound, no 
hepatosplenomegaly appreciated.
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4 
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate

DISCHARGE PHYSICAL EXAM
-Vitals: reviewed
-General: no acute distress, sitting up in chair seen walking in 
halls
-HEENT: moist mucus membranes
-Cardio: RRR, no murmur
-Pulm: clear b/l, no wheeze
-Abdomen: soft, nontender, non distended, bowel sounds present
-Neuro: AAOx3, no focal neurological deficits 
 
Pertinent Results:
LAB RESULTS:
___:
CBC:
13.3 > 13.7/40.4 < 158 

BMP:
137 | 101 | 26    AGap=17 
----------------< 159
4.0 | 23  | 1.0  

Triglyc: 532
ALT: 14 AP: 62 Alb: 4.5 
AST: 21 Lip: 82 

Discharge labs
___ 06:50AM BLOOD WBC-4.8 RBC-3.69* Hgb-10.7* Hct-31.9* 
MCV-86 MCH-29.0 MCHC-33.5 RDW-13.9 RDWSD-43.9 Plt ___
___ 06:50AM BLOOD Glucose-130* UreaN-9 Creat-0.6 Na-141 
K-3.5 Cl-104 HCO3-27 AnGap-14

IMAGING:
CT abdomen/pelvis with contrast (___):
1. Evolution of necrotizing pancreatitis with persistent and new 
fluid collections within and around the pancreas, as described 
above. Please correlate with clinical exam and serum markers for 
possible re-exacerbation. 
2. Persistent occlusion of the splenic vein and marked 
attenuation at the confluence of the superior mesenteric vein 
and main portal vein. 
 
Brief Hospital Course:
ASSESSMENT/PLAN:
___ year old man with a history of necrotizing pancreatitis due 
to hypertriglyceridemia and alcohol, IDDM2, recently admitted 
for the same (___), presents with acute worsening 
epigastric pain.

Necrotizing pancreatitis due to Hypertriglyceridemia
Patient presents for the third time in the past 1 month with 
acute pancreatitis on the first admission followed by 2 
admissions with necrotizing pancreatitis.  His triglycerides 
peaked at 6756 on ___ with nadir of 245 during previous 
admission now up to 532.  Although patient denies any further 
EtOH use since initial admission and denies history of heavy 
drinking there is concern that this is also contributing to his 
pancreatitis as other providers have documented admission to 
EtOH use.  Pancreatic surgery was consulted recommending 
conservative nonsurgical management with bowel rest and pain 
management.  At time of discharge patient tolerating full liquid 
diet with complete resolution of pain.  As per GI continue 
gemfibrozil, but patient needs to follow up with ___ clinic 
outpatient for more aggressive control of hypertriglyceridemia 
with target goal <250.  GI will continue investigation to 
familial chylomicronemia syndrome.

Insulin Dependent Diabetes Mellitus, type 2:
Glargine held while NPO and resumed once tolerating PO. 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO TID
2. Gemfibrozil 600 mg PO BID 
3. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Ondansetron ODT 4 mg PO Q8H:PRN Nausea 
6. Fish Oil (Omega 3) 1000 mg PO TID 
7. Glargine 10 Units Bedtime

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Fish Oil (Omega 3) 1000 mg PO TID  
3.  Gemfibrozil 600 mg PO BID  
4.  MetFORMIN (Glucophage) 500 mg PO BID  
5.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea  
6. HELD- Glargine 10 Units Bedtime This medication was held. Do 
not restart Insulin until until your eating is back to normal, 
would use sliding scale insulin and hold the lantus

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1  Necrotizing pancreatitis
2. Elevated triglycerides

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted with abdominal pain which is from your 
pancreatitis.  You had a dramatic improvement after not eating 
for about a day and allowing your pancreas to rest.  You did 
well with clear liquids and are now taking full liquid diet.  We 
recommend that you continue this through ___ prior to eating 
regular solid food.   You met with our nutritionist to get some 
advise on following a low fat, diabetic diet.  Please comply 
with her recommendations, as diet, controlling your triglyceride 
levels (with your medication) and abstaining from alcohol are 
the only things that can be done to prevent worsening of your 
pancreatitis.   Since your pain is mild, we advise that you use 
tylenol on a standing basis (every 8 hours).  Dr. ___ 
___ close outpatient follow up with the ___ clinic.  
 
Followup Instructions:
___